US06610688B2
Synthesis of 4-(3-Chloro-4-fluoro-phenylamino)-5-[5-(morpholine-4-carbonyl)-1H-pyrrol-2-ylmethylene]-5,7-dihydro-pyrrolo[2,3-D]pyrimidin-6-one (Formula 33)
A mixture of 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one (70 mg, 0.25 mmol), 5-(morpholine-4-carbonyl)-1H-pyrrole-2-carbaldehyde (62.5 mg, 0.3 mmol) and piperidine (3 drops) in ethanol (2 mL) was stirred at room temperature for 4 days. The precipitate was collected by vacuum filtration, washed with ethanol and dried to give 69 mg (59%) of the title compound. 1H NMR (360 MHz, DMSO-d6) δ 13.41 (br s, 1H, NH), 11.65 (br s, 1H, NH), 8.81 (br s, 1H, NH), 8.28 (s, 1H), 7.76 (s, 1H), 7.75 (m, 1H), 7.53 (m, 1H), 7.38 (t, J=9.05 Hz, 1H), 6.91 (d, J=3.6 Hz, 1H), 6.76 (d, J=3.6 Hz, 1H), 3.71 (m, 4H, 2×CH2), 3.65 (m, 4H, 2×CH2). MS 469 [M++1].

reactant | 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 0.25 mmol, 70 mg | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2)=O | C12H8ClFN4O
reactant | 5-(morpholine-4-carbonyl)-1H-pyrrole-2-carbaldehyde | 0.3 mmol, 62.5 mg | N1(CCOCC1)C(=O)C1=CC=C(N1)C=O | C10H12N2O3
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 4-(3-Chloro-4-fluoro-phenylamino)-5-[5-(morpholine-4-carbonyl)-1H-pyrrol-2-ylmethylene]-5,7-dihydro-pyrrolo[2,3-D]pyrimidin-6-one | 69 mg, 59% | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2=CC=2NC(=CC2)C(=O)N2CCOCC2)=O | C22H18ClFN6O3
